US09428510B2
1.74 ml (3.5 eq) of triethylamine and 1.6 ml (2.1 eq) of trifluoroacetic anhydride are added to a solution of 1.5 g (3.58 mmol) of (S)-4-(3-aminopyrrolidin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoic acid in the form of a trifluoroacetic acid salt in 40 ml of dichloromethane at 0° C. The reaction medium is stirred at room temperature for 24 hours. Water (10 ml) is added drop by drop and then the organic phase is washed with saturated sodium chloride solution, dried on magnesium sulfate, filtered and evaporated. The residue is purified by silica gel chromatography (96:4 dichloromethane/methanol as eluent) to yield 250 mg (14%) of (S)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)-4-(3-(2,2,2-trifluoroacetamido)pyrrolidin-1-yl)benzoic acid in the form of a yellow powder.

reactant | triethylamine | 1.74 ml, 3.5 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.6 ml, 2.1 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (S)-4-(3-aminopyrrolidin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoic acid | 3.58 mmol, 1.5 g | N[C@@H]1CN(CC1)C1=CC(=C(C(=O)O)C=C1)NC1CCOCC1 | C16H23N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | (S)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)-4-(3-(2,2,2-trifluoroacetamido)pyrrolidin-1-yl)benzoic acid | 250 mg, 14% | FC(C(=O)N(C1CCOCC1)C1=C(C(=O)O)C=CC(=C1)N1C[C@H](CC1)NC(C(F)(F)F)=O)(F)F | C20H21F6N3O5
